US08877759B2
Preparation 31. Synthesis of (E)-Di-tert-butyl 2-(4-((hydroxyimino)methyl)phenyl)piperazine-1,4-dicarboxylate
Hydroxylamine 50% solution in water (236.5 μL of 50% w/v, 3.580 mmol) was added to a stirred solution of di tert-butyl 2-(4-formylphenyl)piperazine-1,4-dicarboxylate (699 mg, 1.790 mmol) in ethanol (20 mL) at ambient temperature. Stirred at ambient temperature for 1 hour. The reaction mixture was concentrated in vacuo and the residue taken up in water and extracted with ethyl acetate (×3). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a white foam. Taken onto the next step as is (725.8 mg, assume 100% yield).

reactant | Hydroxylamine | NO | H3NO
reactant | water | 3.580 mmol, 236.5 μL | O | H2O
reactant | di tert-butyl 2-(4-formylphenyl)piperazine-1,4-dicarboxylate | 1.790 mmol, 699 mg | C(=O)C1=CC=C(C=C1)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H30N2O5
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (E)-Di-tert-butyl 2-(4-((hydroxyimino)methyl)phenyl)piperazine-1,4-dicarboxylate | 100% yield | O\N=C\C1=CC=C(C=C1)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H31N3O5
